* extracted by klt extract --deck sg13cmos5l

* cell sg13cmos5l_bandgap_startup
* pin det
* pin fb
* pin sns1
* pin vdd
* pin vss
* pin vsubs
.SUBCKT sg13cmos5l_bandgap_startup det fb sns1 vdd vss vsubs
* device instance $1 r0 *1 55,0 nfet
M$1 det sns1 vss vsubs nfet L=0.5U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $2 r0 *1 80,0 nfet
M$2 fb det vss vsubs nfet L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $3 r0 *1 22.386,29.852 rhigh
R$3 vdd det vsubs 1919368 rhigh
.ENDS sg13cmos5l_bandgap_startup
